US07141586B2
2-Chloro-5-fluoro-N-(1-hydroxymethyl-1-cyclopentyl)-nicotinamide (100 mg, 0.367 mmol), 4-methylsulfanyl phenol (51 mg, 0.367 mmol) and caesium carbonate (131 mg, 0.403 mmol) were suspended in DMF (1.5 ml) and the reaction was heated to 50° C. and stirred at this temperature under nitrogen for 16 h. The reaction mixture was cooled and partitioned between ethyl acetate (25 ml) and water (25 ml). The organic phase was removed and washed with brine (25 ml) followed by water (25 ml). The organic layer was dried over MgSO4 and the solvent was removed under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting with a solvent gradient of dichloromethane:methanol (99:1 changing to 95:5, by volume) to give 5-Fluoro-N-(1-hydroxymethyl-cyclopentyl)-2-(4-methylsulfanyl-phenoxy)-nicotinamide (27 mg) as an off-white solid.

reactant | 2-Chloro-5-fluoro-N-(1-hydroxymethyl-1-cyclopentyl)-nicotinamide | 0.367 mmol, 100 mg | ClC1=C(C(=O)NC2(CCCC2)CO)C=C(C=N1)F | C12H14ClFN2O2
reactant | 4-methylsulfanyl phenol | 0.367 mmol, 51 mg | CSC1=CC=C(C=C1)O | C7H8OS
reactant | caesium carbonate | 0.403 mmol, 131 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 5-Fluoro-N-(1-hydroxymethyl-cyclopentyl)-2-(4-methylsulfanyl-phenoxy)-nicotinamide | 27 mg | FC=1C=NC(=C(C(=O)NC2(CCCC2)CO)C1)OC1=CC=C(C=C1)SC | C19H21FN2O3S
